US06103910
a) (R)-1-Acryloyl-pyrrolidine-2-carboxylic acid tert-butyl ester
To a stirred solution of 5.0 g (29.2 mmol) D-Proline tert-butyl ester and 4.5 ml (32.1 mmol) triethylamine in 180 ml dichloromethane at 0° C. was added dropwise 3.6 ml (43.8 mmol) acryloyl chloride and stirring continued for 48 h at room temperature. The reaction mixture was then washed sequentially with water, saturated ammonium chloride solution, once more with water and then with saturated brine, and the aqueous phases back-extracted with dichloromethane. The combined organic extracts were dried over sodium sulphate and concentrated in vacuo to afford 6.6 g (100%) of the title compound as a yellow oil.

reactant | D-Proline tert-butyl ester | 29.2 mmol, 5.0 g | C(C)(C)(C)OC([C@@H]1NCCC1)=O | C9H17NO2
reactant | triethylamine | 32.1 mmol, 4.5 ml | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 43.8 mmol, 3.6 ml | C(C=C)(=O)Cl | C3H3ClO
solvent | dichloromethane | 180 ml | ClCCl | CH2Cl2
product | (R)-1-Acryloyl-pyrrolidine-2-carboxylic acid tert-butyl ester | 6.6 g, 100% | C(C)(C)(C)OC(=O)[C@@H]1N(CCC1)C(C=C)=O | C12H19NO3
